US07635715B2
Step B: Preparation of ((Dihydrofuran-2(3H)-ylidene)(methoxy)-methoxy)trimethylsilane
To a suspension of LDA (2.6 g, 24.3 mmol) in THF (30 mL) at −78° C. was slowly added methyl tetrahydrofuran-2-carboxylate (3.0 g, 23.0 mmol). The resulting mixture was stirred at −78° C. for 20 minutes, and TMS chloride (2.6 g, 24.3 mmol) was slowly added. The reaction was stirred for 1 hour at −78° C. and then warmed to room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, avoiding contact with water. Hexanes (20 mL) was then added, and the mixture was passed through a short plug of celite, eluting with hexanes (10 mL). The solution was then concentrated, affording the crude product in good purity.

reactant | LDA | 24.3 mmol, 2.6 g | [Li+].CC(C)[N-]C(C)C
reactant | methyl tetrahydrofuran-2-carboxylate | 23.0 mmol, 3.0 g | O1C(CCC1)C(=O)OC | C6H10O3
reactant | TMS chloride | 24.3 mmol, 2.6 g | [Si](C)(C)(C)Cl | C3H9ClSi
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ((Dihydrofuran-2(3H)-ylidene)(methoxy)-methoxy)trimethylsilane | O1C(CCC1)=C(O[Si](C)(C)C)OC | C9H18O3Si
